US05972951
2'-Methyl-4'-(1-methylimidazol-5-yl)biphenyl-4-carboxylic acid
5-(4-Bromo-3-methylphenyl)-1-methylimidazole (D92, 1.52 g, 6.1 mmol) was dissolved in DME (50 ml) and water (50 ml), then treated with 4-boronobenzoic acid (1.0 g, 6.1 mmol), sodium carbonate (2.57 g, 24.2 mmol) and tetrakis(triphenylphosphine)palladium (O) (100 mg). The mixture was heated at reflux (48 hours), cooled and the DME removed in vacuo. The aqueous residue was treated with 10% Na2CO3 (approx 30 ml), then washed with ethyl acetate. The aqueous phase was acidified with 5N HCl and the solid that precipitated was collected by filtration. This solid was dried in vacuo to yield the title compound as a white solid (600 mg, 34%).

reactant | 5-(4-Bromo-3-methylphenyl)-1-methylimidazole | 6.1 mmol, 1.52 g | BrC1=C(C=C(C=C1)C1=CN=CN1C)C | C11H11BrN2
reactant | 4-boronobenzoic acid | 6.1 mmol, 1.0 g | B(O)(O)C1=CC=C(C(=O)O)C=C1 | C7H7BO4
reactant | sodium carbonate | 24.2 mmol, 2.57 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | DME | 50 ml | COCCOC | C4H10O2
solvent | water | 50 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 100 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2'-Methyl-4'-(1-methylimidazol-5-yl)biphenyl-4-carboxylic acid | 600 mg, 34% | CC1=C(C=CC(=C1)C1=CN=CN1C)C1=CC=C(C=C1)C(=O)O | C18H16N2O2
